### ISSUE TITLE
HEq から Eq を示す例

### ISSUE THREAD

**Issue by Seasawher** [lean-ja/lean-by-example#1877]
FYI, I managed to solve the problem.
BTW, why is the following not in the standard library?
```
theorem congr_heq₂ {α α' β β' γ : Type} {f : α → α' → γ} {g : β → β' → γ} {x : α} {u : α'} {y : β} {v : β'}
    (hfg : HEq f g) (hxy : HEq x y) (huv : HEq u v) :
    f x u = g y v := by
  cases huv
  cases hxy
  cases hfg
  rfl
```

**Comment by Seasawher** [comment]
https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/.60HEq.60.20the.20heck/near/527165633
